US05679683
Iron dust reduction of 7-amino-4-(3-bromoanilino)-6-nitroquinazoline (0.5 g, 1.4 mmol) in 65% aqueous EtOH containing sufficient aqueous HCl to ensure solubility gives 4-(3-bromoanilino)-6,7-diaminoquinazoline (0.30 g, 65%). 1H NMR (DMSO) δ9.14 (1H, s), 8.27 (1H, s), 8.23 (1H, brs), 7.85 (1H, d, J =8.0 Hz), 7.31-7.14 (2H, m), 7.29 (1H, s), 6.79 (1H, s), 5.73 (2H, brs), 5.13 (2H, brs).

reactant | 7-amino-4-(3-bromoanilino)-6-nitroquinazoline | 1.4 mmol, 0.5 g | NC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)Br)[N+](=O)[O-] | C14H10BrN5O2
solvent | EtOH | CCO | C2H6O
catalyst | Iron | [Fe] | Fe
product | 4-(3-bromoanilino)-6,7-diaminoquinazoline | 0.30 g, 65% | BrC=1C=C(NC2=NC=NC3=CC(=C(C=C23)N)N)C=CC1 | C14H12BrN5
